US06492364B1
1-(3-nitrophenyl)-4-(diphenylmethyl)piperidine (854 mg) was dissolved in ethanol (60 ml), and 10% palladium/carbon (76 mg) was added thereto, followed by stirring the mixture overnight under hydrogen atmosphere. Palladium/carbon was removed by filtration through Celite and the filtrate was concentrated, followed by purifying the residue by silica gel column chromatography (hexane:ethyl acetate=5:4) to obtain 711 mg of 3-(4-(diphenylmethyl)piperidyl)phenylamine. Yield: 90%.

reactant | 1-(3-nitrophenyl)-4-(diphenylmethyl)piperidine | 854 mg | [N+](=O)([O-])C=1C=C(C=CC1)N1CCC(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H24N2O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 76 mg | [Pd] | Pd
product | 3-(4-(diphenylmethyl)piperidyl)phenylamine | 711 mg, Yield: 90% | C1(=CC=CC=C1)C(C1CCN(CC1)C=1C=C(C=CC1)N)C1=CC=CC=C1 | C24H26N2
